US06627629B2
Part K: Preparation of (3R,4S)-3-[3-(3-acetyl-phenyl)-ureido]-4-[(S)-3-(4-fluoro-benzyl)-piperidine-1-carbonyl]-piperidine-1-carboxylic acid t-butyl ester
In a dry flask (3R,4S)-3-amino-4-[(S)-3-(4-fluoro-benzyl)-piperidine-1-carbonyl]-piperidine-1-carboxylic acid t-butyl ester (77 mg, 0.18 mmol) was dissolved in tetrahydrofuran (2.5 mL) and triethylamine (20 μL, 0.143 mmol) and 3-acetylphenylisocyanate (50 μL, 0.36 mmol) were added. The reaction mixture was stirred for 16 hours. The reaction mixture was concentrated in vacuo and purified by preparative reverse-phase HPLC (10-90% acetonitrile in water with 0.05% trifluoroacetic acid) to give a white amorphous solid (40 mg, 38%). 1H NMR (300 MHz, CDCl3), δ: 7.98 (d, J=8, 1H), 7.83 (m, 2H), 7.74 (m, 1H), 7.65 (m, 2H), 7.56 (m, 1H), 7.46 (m, 1H), 7.01 (m, 2H), 6.87 (m, 1H), 3.09 (m, 1H), 2.51-2.77 (m, 7H), 2.42 (m, 1H), 1.23-1.78 (m, 11H), 1.42 (s, 9H). HRMS (ESI), C32H42FN4O5 m+/z: calc.=581.3139, found=581.3142.

reactant | (3R,4S)-3-amino-4-[(S)-3-(4-fluoro-benzyl)-piperidine-1-carbonyl]-piperidine-1-carboxylic acid t-butyl ester | 0.18 mmol, 77 mg | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C(=O)N1C[C@@H](CCC1)CC1=CC=C(C=C1)F)N | C23H34FN3O3
reactant | triethylamine | 0.143 mmol, 20 μL | C(C)N(CC)CC | C6H15N
reactant | 3-acetylphenylisocyanate | 0.36 mmol, 50 μL | C(C)(=O)C=1C=C(C=CC1)N=C=O | C9H7NO2
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | (3R,4S)-3-[3-(3-acetyl-phenyl)-ureido]-4-[(S)-3-(4-fluoro-benzyl)-piperidine-1-carbonyl]-piperidine-1-carboxylic acid t-butyl ester | 40 mg, 38% | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C(=O)N1C[C@@H](CCC1)CC1=CC=C(C=C1)F)NC(=O)NC1=CC(=CC=C1)C(C)=O | C32H41FN4O5
